US09034907B2
6-benzyl-2,3-dihydro-3-(3-(4-methyl-1H-imidazol-1-yl)propyl)-2-thioxothieno[2,3-d]pyrimidin-4(1H)-one
The compound was synthesized starting from methyl 2-isothiocyanato-5-benzylthiophene-3-carboxylate (0.102 g. 0.35 mmol) and 3-(4-methyl-1H-imidazol-1-yl)propan-1-amine (0.049 g, 0.35 mmol) as described above.

reactant | methyl 2-isothiocyanato-5-benzylthiophene-3-carboxylate | 0.35 mmol, 0.102 g | N(=C=S)C=1SC(=CC1C(=O)OC)CC1=CC=CC=C1 | C14H11NO2S2
reactant | 3-(4-methyl-1H-imidazol-1-yl)propan-1-amine | 0.35 mmol, 0.049 g | CC=1N=CN(C1)CCCN | C7H13N3
product | 6-benzyl-2,3-dihydro-3-(3-(4-methyl-1H-imidazol-1-yl)propyl)-2-thioxothieno[2,3-d]pyrimidin-4(1H)-one | C(C1=CC=CC=C1)C1=CC2=C(NC(N(C2=O)CCCN2C=NC(=C2)C)=S)S1 | C20H20N4OS2
